US09447046B2
Preparation 89a: 6-(2-methylpyridin-4-yl)-1,2,3,4-tetrahydronaphthalen-1-one
To a suspension of 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl 4-methylbenzene-1-sulfonate (1.3 g, 4.4 mmol), 2-methylpyridine-4-boronic acid pinacol ester (800 mg, 3.7 mmol), Na2CO3 (773 mg, 7.3 mmol) and LiCl.H2O (442 mg, 7.3 mmol) in EtOH/H2O/toluene (4.4 mL/2.3 mL/20.0 mL) was added Pd(PPh3)4 (211 mg, 0.2 mmol) at rt under N2. The reaction was stirred at 100° C. overnight. The reaction was filtered and concentrated. Purification by silica gel chromatography (PE:EtOAc=1:1) gave 865 mg (quantitative) of the title compound as a yellow solid. [M+H] Calc'd for C16H15NO, 238. Found, 238.

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl 4-methylbenzene-1-sulfonate | 4.4 mmol, 1.3 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=2CCCC(C2C=C1)=O | C17H16O4S
reactant | 2-methylpyridine-4-boronic acid pinacol ester | 3.7 mmol, 800 mg | CC1=NC=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | Na2CO3 | 7.3 mmol, 773 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | LiCl.H2O | 7.3 mmol, 442 mg | [Li]Cl.O
solvent | EtOH H2O toluene | 4.4 mL | CCO.O.C1(=CC=CC=C1)C
catalyst | Pd(PPh3)4 | 0.2 mmol, 211 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2-methylpyridin-4-yl)-1,2,3,4-tetrahydronaphthalen-1-one | CC1=NC=CC(=C1)C=1C=C2CCCC(C2=CC1)=O | C16H15NO
